US06248790B1
Tyrosine Kinase Assays
Sf21 cells were infected with a baculovirus expression vector for BTK or SYK, as previously described (refs 18 and 19). Cells were harvested, lysed (10 mM Tris pH 7.6, 100 mM NaCl, 1% Nonidet P-40, 10% glycerol, 50 mM NaF, 100 mM Na3VO4, 50 μg/ml phenylmethylsulfonyl fluoride, 10 μg/ml aprotonin, 10 μg/ml leupeptin), and the kinase proteins were purified to homogeneity, as reported (refs 18 and 19).

reactant | Tris | 10 mM, pH 7.6 | C(C(CO)(CO)N)O | C4H11NO3
reactant | Nonidet P-40 | CC(C)(C)CC(C)(C)C1=CC=C(C=C1)OCCOCCO | C18H30O3
reactant | NaF | 50 mM | [F-].[Na+]
reactant | phenylmethylsulfonyl fluoride | C1(=CC=CC=C1)CS(=O)(=O)F | C7H7FO2S
reactant | leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
solvent | glycerol | OCC(O)CO | C3H8O3
product | Tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
